US07022850B2
Step 1: 5-Amino-3-methyl-isoxazole-4-carbonitrile.
A mixture of hydroxylamine hydrochloride (27.8 g, 0.4 mol) and sodium hydroxide (16.0 g, 0.4 mol) in water (1000 mL) was treated with 2-(1-ethoxy-ethylidene)-malononitrile (54.42 g, 0.4 mol) over 1 h. After the addition, the reaction mixture was stirred at room temperature for 18 h. The resulting suspension was collected, washed with cold EtOAc (1000 mL) and air dried to afford the desired product as a white solid (35.8 g, 72%); 1H NMR (DMSO-d6) δ 8.32 (s, 2 H), 2.1 (s, 3H).

reactant | hydroxylamine hydrochloride | 0.4 mol, 27.8 g | Cl.NO
reactant | sodium hydroxide | 0.4 mol, 16.0 g | [OH-].[Na+]
reactant | 2-(1-ethoxy-ethylidene)-malononitrile | 0.4 mol, 54.42 g | C(C)OC(C)=C(C#N)C#N | C7H8N2O
solvent | water | 1000 mL | O | H2O
product | 5-Amino-3-methyl-isoxazole-4-carbonitrile | 35.8 g, 72% | NC1=C(C(=NO1)C)C#N | C5H5N3O
